US07157488B2
N-(2-(3-Chlorophenyl)ethyl)-3-ethoxybenzylamine
Combine 3-ethoxybenzaldehyde (3.38 g, 22.5 mmol), 2-(3-chlorophenyl)ethylamine (2.33 g, 15.0 mol), and 3 Å molecular sieves (2.88 g) in ethanol (230 ml). Stir the reaction mixture at reflux for 4 hours. Filter to remove the molecular sieves and then slowly add sodium borohydride (1.70 g, 45.0 mmol) to the filtrate and stir at ambient temperature. After 15 hours, concentrate the reaction mixture to a residue, dissolve the residue in 1N NaOH, and extract with dichloromethane. Combine organic extracts, wash with brine, dry over Na2SO4, and concentrate to a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound. The HCl salt was prepared in ethyl acetate to give the title compound: mp 178–180° C.; MS (ACPI): m/e 290.1 (M+1); Analysis for C17H21Cl2NO: Calcd: C, 62.58; H, 6.49; N, 4.29; Found: C, 62.65; H, 6.53; N, 4.32.

reactant | 3-ethoxybenzaldehyde | 22.5 mmol, 3.38 g | C(C)OC=1C=C(C=O)C=CC1 | C9H10O2
reactant | 2-(3-chlorophenyl)ethylamine | 15.0 mol, 2.33 g | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | sodium borohydride | 45.0 mmol, 1.70 g | [BH4-].[Na+]
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | N-(2-(3-Chlorophenyl)ethyl)-3-ethoxybenzylamine | ClC=1C=C(C=CC1)CCNCC1=CC(=CC=C1)OCC | C17H20ClNO
